US05243054
22a) 4,-Methylbiphenyl-2-carboxamidoxime
To a solution of hydroxylamine hydrochloride (17.9 g) in dimethyl sulfoxide (120 ml) was added a methanol solution of sodium methoxide prepared from metallic sodium (5.92 g) and anhydrous methanol (50 ml). The mixture was stirred for 10 minutes at room temperature, to which was added 2'-cyano-4-methylbiphenyl (10 g) The reaction mixture was stirred for 5 hours at 100° C. The reaction mixture was partitioned between ethyl acetate and water. The aqueous layer was extracted with ethyl acetate. Organic layers were combined, washed with water and dried, then the solvent was evaporated in vacuo. The residue was purified by column chromatography on silica gel to afford the title compound as a white amorphous product (11.2 g, 96%).

reactant | hydroxylamine hydrochloride | 17.9 g | Cl.NO
reactant | sodium methoxide | C[O-].[Na+]
reactant | sodium | 5.92 g | [Na] | Na
reactant | 2'-cyano-4-methylbiphenyl | 10 g | C(#N)C1=C(C=CC=C1)C1=CC=C(C=C1)C | C14H11N
reactant | dimethyl sulfoxide | 120 ml | CS(=O)C | C2H6OS
solvent | methanol | 50 ml | CO | CH4O
product | Methylbiphenyl-2-carboxamidoxime | CC1=C(C(=CC=C1)C1=CC=CC=C1)C(N)=NO | C14H14N2O
